US05958942
3-Methyl-2-[4-(phthalimido)butan-1-ylthio]-1,4,7b-triazacyclopent[cd]indene
A mixture of 5.68 g (30 mmol) of 1,2-dihydro-3-methyl-1,4,7b-triazacyclopent[cd]indene-2-thione, 8.47 g (30 mmol) of N-(4-bromobutyl)phthalimide and 6.27 ml (45 mmol) of triethylamine in 150 ml of DMF was stirred for 2 hours at 100° C. After cooling, the reaction mixture was poured into water, extracted with ethyl acetate. The extract solution was washed with water, dried over anhydrous magnesium sulfate and concentrated. The residue was crystallized from chloroform-ethanol to give 7.39 g of the desired compound (63.1%, pale brown solid)

reactant | 1,2-dihydro-3-methyl-1,4,7b-triazacyclopent[cd]indene-2-thione | 30 mmol, 5.68 g | CC=1N=C2N3C1C(NC3=CC=C2)=S | C9H7N3S
reactant | N-(4-bromobutyl)phthalimide | 30 mmol, 8.47 g | BrCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C12H12BrNO2
reactant | triethylamine | 45 mmol, 6.27 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 3-Methyl-2-[4-(phthalimido)butan-1-ylthio]-1,4,7b-triazacyclopent[cd]indene | 7.39 g, 63.1% | CC=1N=C2N3C1C(=NC3=CC=C2)SCCCCN2C(C=3C(C2=O)=CC=CC3)=O | C21H18N4O2S
